US04485114
α-Oxo-4-[3-(trifluoromethyl)phenoxy]benzeneethanal, monohydrate
A 374 g. portion of hydroxy[p-(α,α,α-trifluoro-m-tolyloxy)benzoyl]methanesulfonic acid, sodium salt was suspended in 3485 ml. of water and the mixture was stirred at 50° C. while 316 ml. of 6N hydrochloric acid were added during 30 minutes. The cloudy solution was warmed slowly until sulfur dioxide evolution ceased and an oil began to separate at about 75° C., then was stirred and heated at reflux for 1.5 hours. The mixture was cooled and extracted with three 1000 ml. portions of ether. The extracts were combined, washed with water, saturated sodium bicarbonate and brine, dried and concentrated to a yellow solid. This solid was recrystallized from ether:hexane (1:1) at 5° C., to yield the desired product as a white solid, m.p. 73°-80° C.

reactant | hydroxy[p-(α,α,α-trifluoro-m-tolyloxy)benzoyl]methanesulfonic acid | OC(S(=O)(=O)O)C(C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F)=O | C15H11F3O6S
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | O | H2O
product | α-Oxo-4-[3-(trifluoromethyl)phenoxy]benzeneethanal, monohydrate | O.O=C(C=O)C1=CC=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C15H9F3O3.H2O/c16-15(17,18)11-2-1-3-13(8-11)21-12-6-4-10(5-7-12)14(20)9-19;/h1-9H;1H2
